US07687529B2
To 2-amino-benzenethiol (10 g, 79.9 mmol) in THF (200 mL) at room temperature was added carbonyldiimidazole (14.3 g, 87.9 mmol) and the reaction solution stirred for 12 hours. Upon disappearance of starting material, the reaction solution was poured into 1N HCl (125 mL) and extracted with ethyl acetate (125 mL). The organic layer was dried over sodium sulfate and concentrated to give 1,3-benzothiazol-2(3H)-one as a white solid. MS (ES) m/z 152.1.

reactant | 2-amino-benzenethiol | 79.9 mmol, 10 g | NC1=C(C=CC=C1)S | C6H7NS
reactant | carbonyldiimidazole | 87.9 mmol, 14.3 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | HCl | 1N, 125 mL | Cl | ClH
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | 1,3-benzothiazol-2(3H)-one | S1C(NC2=C1C=CC=C2)=O | C7H5NOS
